US05317023
6-Chloro-2,3-pyridinediamine
A solution of tin (II) chloride (21.8 g) in concentrated hydrochloric acid (30 ml) was added, with cooling, to 6-chloro-3-amino-2-nitropyridine (5 g) and the suspension stirred for 3 hours at room temperature. The pH was adjusted to pH12 (40% NaOH) and the solvent removed in vacuo. The residue was purified by flash column chromatography, eluting with System C (100:8:1), to afford the title compound as a yellow solid (3.29 g).

reactant | tin (II) chloride | 21.8 g | [Sn](Cl)Cl
reactant | 6-chloro-3-amino-2-nitropyridine | 5 g | ClC1=CC=C(C(=N1)[N+](=O)[O-])N | C5H4ClN3O2
reactant | NaOH | [OH-].[Na+]
solvent | hydrochloric acid | 30 ml | Cl | ClH
product | 6-Chloro-2,3-pyridinediamine | 3.29 g | ClC1=CC=C(C(=N1)N)N | C5H6ClN3
